US04515966
PREPARATION OF 4-METHYL-2-[2-(METHYLTHIO)ETHYL]-1,3-DIOXOLANE
Into a 100 ml reaction flask equipped with spin bar, reflux condenser, heating mantle and hot plate with magnetic stirring apparatus is placed 5 ml cyclohexane, 0.2 grams para-toluenesulfonic acid and 3.8 grams (0.05 moles) of 1,2-propanediol. Over a period of 8 hours, 3-methylthiopropionaldehyde is added to the reaction mass. The reaction mass is then heated to reflux and during refluxing water of formation is removed. The refluxing continues for a period of 7 hours. At the end of the 7 hour period, the reaction mass is transferred to a separatory funnel and washed with one 50 ml portion of saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate, filtered and distilled on a Microvigreux column yielding the following fractions:

reactant | cyclohexane | 5 ml | C1CCCCC1 | C6H12
reactant | para-toluenesulfonic acid | 0.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-propanediol | 0.05 moles, 3.8 grams | C(C(C)O)O | C3H8O2
reactant | 3-methylthiopropionaldehyde | CCCC=S | C4H8S
solvent | water | O | H2O
product | 4-METHYL-2-[2-(METHYLTHIO)ETHYL]-1,3-DIOXOLANE | CC1OC(OC1)CCSC | C7H14O2S
